US07935721B2
Synthesis of 1′-pentyl-7H-spiro[furo[3,4-f][1,3]benzodioxole-5,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 3-hydroxy-3-[6-(hydroxymethyl)-1,3-benzodioxol-5-yl]-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (45%) as a colorless solid: mp 113-115° C.; 1H NMR (300 MHz, CDCl3) δ 7.24-7.33 (m, 1H), 7.12 (dd, 1H), 7.01 (t, 1H), 6.87 (d, 1H), 6.74 (s, 1H), 6.15 (s, 1H), 5.92 (dd, 2H), 5.48 (d, 1H), 5.27 (d, 1H), 3.76-3.56 (m, 2H), 1.71-1.64- (m, 2H), 1.37-1.27- (m, 4H), 0.89-0.84 (m, 3H); 13C NMR (75 MHz, CDCl3) δ 175.9, 148.7, 148.1, 143.6, 133.7, 132.1, 130.3, 129.8, 125.3, 125.0, 123.1, 113.5, 109.1, 108.7, 101.9, 101.7, 88.7, 74.4, 40.0, 29.7, 29.0, 25.3, 13.3; MS (ES+) m/z 352.1 (M+1).

reactant | 3-hydroxy-3-[6-(hydroxymethyl)-1,3-benzodioxol-5-yl]-1-pentyl-1,3-dihydro-2H-indol-2-one | OC1(C(N(C2=CC=CC=C12)CCCCC)=O)C1=CC2=C(OCO2)C=C1CO | C21H23NO5
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 1′-pentyl-7H-spiro[furo[3,4-f][1,3]benzodioxole-5,3′-indol]-2′(1′H)-one | C(CCCC)N1C(C2(C3=CC=CC=C13)OCC=1C2=CC2=C(OCO2)C1)=O | C21H21NO4
